US06919329B2
Step 1: Preparation of (5R)-(−)-3-[3-fluoro-4-iodophenyl]-5-hydroxymethyl-2-oxazolidinone
A solution of isobutyl 3-fluoro-4-iodophenylcarbamate (Org. Process Res. Dev. 2001, 5(1), 80-83,5.00 g, 14.83 mmol) in dry tetrahydrofuran (59 mL) at −78° C. under nitrogen is treated with lithium hexamethyldisilazide (1.0M in tetrahydrofuran, 15.6 mL, 15.57 mmol) dropwise and stirred at −78° C. for 45 minutes. Then, (R)-glycidyl butyrate (2.21 mL, 15.57 mmol) is added dropwise, and the resulting mixture is stirred at −78° C. for 1 h and at ambient temperature for 2.75 days. The reaction mixture is then quenched with saturated aqueous ammonium chloride (20 mL), diluted with water (20 mL) and the layers are separated. The aqueous phase is extracted with ethyl acetate (25 mL), and the combined organic phase is washed with water (25 mL) and saline (25 mL), dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The product mixture is then chromatographed on a Flash 40M silica gel (90 g, 32-63 μm) cartridge, eluting with a gradient of methanol/methylene chloride (1/99-2/98), and those fractions with an Rf=0.25 by TLC (methanol/chloroform, 5/95) are pooled and concentrated to give the title compound, mp 116-117° C.; MS (ESI+) for C10H9FINO3 m/z 338 (M+H)+; [α]25D=−41 (c 0.98, DMSO).

reactant | isobutyl 3-fluoro-4-iodophenylcarbamate | 14.83 mmol, 5.00 g | FC=1C=C(C=CC1I)NC(OCC(C)C)=O | C11H13FINO2
reactant | lithium hexamethyldisilazide | 15.57 mmol, 1.0M, 15.6 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | (R)-glycidyl butyrate | 15.57 mmol, 2.21 mL | C(CCC)(=O)OC[C@H]1CO1 | C7H12O3
solvent | tetrahydrofuran | 59 mL | O1CCCC1 | C4H8O
product | (5R)-(−)-3-[3-fluoro-4-iodophenyl]-5-hydroxymethyl-2-oxazolidinone | FC=1C=C(C=CC1I)N1C(O[C@H](C1)CO)=O | C10H9FINO3
